US07786132B2
(i) 2-(2-Oxopyrrolidin-1-yl)acetonitrile
Dimethylformamide (4.65 mL, 60 mmol) was taken up in acetonitrile (100 mL) and the solution cooled to 0° C. with an ice bath. Oxalyl chloride (4.8 mL, 55 mmol), diluted with acetonitrile (20 mL) was added to the reaction dropwise. The mixture was stirred for 30 min, then 2-(2-oxopyrrolidin-1-yl)acetamide (7.11 g, 50 mmol) in 30 mL of acetonitrile was added slowly to the reaction. The mixture was allowed to stir for 30 min and pyridine (6.1 mL, 100 mmol) was added to the reaction in one portion. The reaction was stirred for an additional 30 min and the volatiles were removed in vacuo. Water was added to the residue which was extracted with ethyl acetate. The aqueous layer was acidified to pH 2 with 1 N HCl and further extracted with ethyl acetate. All the organic layers were combined, washed with brine, dried with sodium sulfate, concentrated and placed on a high vacuum line to afford a clear oil. Yield=4.4 g

reactant | Dimethylformamide | 60 mmol, 4.65 mL | CN(C=O)C | C3H7NO
reactant | Oxalyl chloride | 55 mmol, 4.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(2-oxopyrrolidin-1-yl)acetamide | 50 mmol, 7.11 g | O=C1N(CCC1)CC(=O)N | C6H10N2O2
reactant | pyridine | 100 mmol, 6.1 mL | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-(2-Oxopyrrolidin-1-yl)acetonitrile | O=C1N(CCC1)CC#N | C6H8N2O
